US20010041799A1
To a solution of [[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester (4.30 g, 11.4 mmol) in toluene (20 mL) was added Lawesson's reagent (2.60 g, 6.27 mmol). The resultant mixture was warmed to 50° C. and stirred for 18 h. The reaction mixture was filtered through a sintered glass funnel and the filtrate was concentrated in vacuo. The residue was by flash column chromatography over silica gel (hexane-ethyl acetate, 9:1 then 8: 1) to afford N-[[1 -(2-methoxyethyl)cyclopentyl]thioxomethyl] -4-nitro-L-phenylalanine methyl ester (2.44 g, 54%; 70% based on recovered starting material) as a light yellow oil. HR MS: Obs. mass, 395.1639. Calcd. mass, 395.1640 (M+H).

reactant | [[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-nitro-L-phenylalanine methyl ester | 11.4 mmol, 4.30 g | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H26N2O6
reactant | Lawesson's reagent | 6.27 mmol, 2.60 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-[[1 -(2-methoxyethyl)cyclopentyl]thioxomethyl] -4-nitro-L-phenylalanine methyl ester | 2.44 g | COC([C@@H](NC(=S)C1(CCCC1)CCOC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H26N2O5S
